US07919498B2
Prepared according to Procedure I using 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.41 g, 1.6 mmol, 1 eq) in DMF (5 mL), NaH (60%, 0.138 g, 3.5 mmol, 2.2 eq), and 3-(chloromethyl)-8-methyl-2-(2-(trifluoromethyl)phenyl)quinoline (0.58 g, 1.7 mmol, 1 eq) in DMF (3 mL). After purification, 3-iodo-1-((8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine was obtained as white solid. 1H NMR (DMSO-d6) δ ppm 8.27 (1 H, s), 7.99 (1 H, s), 7.88 (1 H, d, J=7.8 Hz), 7.73-7.79 (1 H, m), 7.65 (1 H, d, J=6.7 Hz), 7.51-7.61 (3 H, m), 7.28-7.35 (1 H, m), 5.41-5.54 (2 H, m), 2.60 (3 H, s). Mass Spectrum (ESI) m/e=561.0 (M+1).

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 1.6 mmol, 0.41 g, 1 eq | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | NaH | 3.5 mmol, 0.138 g, 2.2 eq | [H-].[Na+]
reactant | 3-(chloromethyl)-8-methyl-2-(2-(trifluoromethyl)phenyl)quinoline | 1.7 mmol, 0.58 g, 1 eq | ClCC=1C(=NC2=C(C=CC=C2C1)C)C1=C(C=CC=C1)C(F)(F)F | C18H13ClF3N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-iodo-1-((8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | IC1=NN(C2=NC=NC(=C21)N)CC=2C(=NC1=C(C=CC=C1C2)C)C2=C(C=CC=C2)C(F)(F)F | C23H16F3IN6
